US06184180B2
Synthesis of hexadecyltriphenylphosphonium tetraphenyl borate
In a 200 ml flask equipped with a stirrer and a calcium chloride dryer tube were charged 2.0 g of hexadecyltriphenylphosphonium bromide synthesized in Synthetic example 37 and 40 ml of ethanol, and then, 1.6 g of tetramethylammonium tetraphenylborate synthesized in Synthetic example 38 was added to the mixture. After refluxing the mixture for 14 minutes, 80 ml of distilled water was added to the reaction mixture, and precipitated crystals were collected by filtration under reduced pressure. The resulting crystals were washed sufficiently with distilled water to obtain 1.6 g of the title compound. Melting point: 300° C. or higher.

reactant | hexadecyltriphenylphosphonium bromide | 2.0 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | tetramethylammonium tetraphenylborate | 1.6 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[N+](C)(C)C
solvent | water | 80 ml | O | H2O
product | hexadecyltriphenylphosphonium tetraphenyl borate | 1.6 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(CCCCCCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C34H48P.C24H20B/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-24-31-35(32-25-18-15-19-26-32,33-27-20-16-21-28-33)34-29-22-17-23-30-34;1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24/h15-23,25-30H,2-14,24,31H2,1H3;1-20H/q+1;-1
